US05708005
N-[2-(6-methoxyquinolin-4-yl)ethyl]acetamide
To a solution of N-[2-(2-chloro-6-methoxyquinolin-4-yl)ethyl]acetamide (3.65 g, 13.1 mmol) in ethanol (100 ml) was added 5% palladium carbon (containing water (50%), 9.0 g). The reaction mixture was subjected to catalytic reduction under an atmosphere of hydrogen at atmospheric pressure. After a theoretical amount of hydrogen was added, the palladium carbon was filtered off. The solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (ethyl acetate:methanol=95:5) to obtain the title compound (2.2 g, 69%).

reactant | N-[2-(2-chloro-6-methoxyquinolin-4-yl)ethyl]acetamide | 13.1 mmol, 3.65 g | ClC1=NC2=CC=C(C=C2C(=C1)CCNC(C)=O)OC | C14H15ClN2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium carbon | 9.0 g | [C].[Pd]
product | N-[2-(6-methoxyquinolin-4-yl)ethyl]acetamide | 2.2 g, 69% | COC=1C=C2C(=CC=NC2=CC1)CCNC(C)=O | C14H16N2O2
